US05441955
A solution of 3-(5-hydroxymethyloxazolidin-3-yl)-8-fluoroindolo[2,1-b]-quinazoline-6,12-dione (0.1 mmol), tosyl chloride (0.12 mmol) and triethylamine (0.2 mmol) in dry DMF is allowed to stir at room temperature overnight. The reaction mixture is diluted with CHCl3, washed with 0.1N HCl, sodium bicarbonate solution, dried (MgSO4) and the solvent is evaporated to give 3-(5-tosyloxymethyloxazolidin-3-yl)-8-fluoroindolo[2,1-b]quinazoline-6,12-dione.

reactant | 3-(5-hydroxymethyloxazolidin-3-yl)-8-fluoroindolo[2,1-b]-quinazoline-6,12-dione | 0.1 mmol | OCC1CN(CO1)C1=CC=C2C(N3C(=NC2=C1)C(C1=CC(=CC=C13)F)=O)=O | C19H14FN3O4
reactant | tosyl chloride | 0.12 mmol | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | triethylamine | 0.2 mmol | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3-(5-tosyloxymethyloxazolidin-3-yl)-8-fluoroindolo[2,1-b]quinazoline-6,12-dione | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1CN(CO1)C1=CC=C2C(N3C(=NC2=C1)C(C1=CC(=CC=C13)F)=O)=O | C26H20FN3O6S
